US03948971
To a solution of 0.52 mM of N-(1-methylcyclohexyloxycarbonyl) phenylalanine in 4 ml. acetonitrile is added 0.60 mM alanine methyl ester hydrochloride and 80 microliters of triethylamine. Immediately following addition of the triethylamine, a solution of 0.58 mM of N,N'-dicyclohexylcarbodiimide in 2 ml. of acetonitrile is added and the reaction is allowed to stir overnight at 20°-25°C. Excess N,N'-dicyclohexylcarbodiimide is destroyed by addition of 5 drops of 50% acetic acid. After adding 15 ml. of methylenechloride, the reaction mixture is filtered to remove the dicyclohexylurea formed during the reaction and the filtrate is treated in the following manner: wash with saturated sodium bicarbonate, 50% saturated sodium chloride solution, 0.2 N sulfuric acid saturated with sodium sulfate, twice with 50% saturated sodium chloride solution. Repeat washing cycle with two portions of methylene chloride and dry over sodium sulfate. The solvent is removed and substantially pure N-(1-methylcyclohexyloxycarbonyl) phenylalanine-alanine methyl ester is obtained.

reactant | N-(1-methylcyclohexyloxycarbonyl) phenylalanine | 0.52 mM | CC1(CCCCC1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H23NO4
reactant | alanine methyl ester hydrochloride | 0.60 mM | Cl.COC([C@@H](N)C)=O
reactant | N,N'-dicyclohexylcarbodiimide | 0.58 mM | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 80 microliters | C(C)N(CC)CC | C6H15N
product | N-(1-methylcyclohexyloxycarbonyl) phenylalanine alanine methyl ester | CC1(CCCCC1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.COC([C@@H](N)C)=O | InChI=1S/C17H23NO4.C4H9NO2/c1-17(10-6-3-7-11-17)22-16(21)18-14(15(19)20)12-13-8-4-2-5-9-13;1-3(5)4(6)7-2/h2,4-5,8-9,14H,3,6-7,10-12H2,1H3,(H,18,21)(H,19,20);3H,5H2,1-2H3/t14-;3-/m00/s1
